US04194049
2-[[2-Methyl-1-[4-chloro-2-(2-fluorobenzyl)phenyl]-1H-imidazol-5-yl]methyl]-1H-isoindole-1,3(2H)dione
To a suspension of 89.4 g (0.232 mole) of 5-(chloromethyl)-2-methyl-1-[4-chloro-2-(2-fluorobenzyl)phenyl]-1H-imidazole in 900 ml of tetrahydrofuran cooled to 10° C. was added 26.2 g (0.232 mole) of potassium t-butoxide. The temperature was maintained at 20° C. by means of an ice water bath during this addition. The bath was removed. To this mixture was added 51.5 g (0.278 mole) of potassium phthalimide. The reaction mixture was stirred under reflux for 2 hr. The mixture was cooled to room temperature and poured onto 1.2 l. of ice-water and extracted with 3×600 ml of methylene chloride. The organic phases were combined and dried over sodium sulfate. The solution was filtered free of drying agent and the filtrate concentrated to dryness giving an oil. The oil was crystallized from 180 ml of ether. The resulting crystals were collected and dried to give end product of m.p. 152°-156° C.

reactant | 5-(chloromethyl)-2-methyl-1-[4-chloro-2-(2-fluorobenzyl)phenyl]-1H-imidazole | 0.232 mole, 89.4 g | ClCC1=CN=C(N1C1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1)F)C | C18H15Cl2FN2
reactant | potassium t-butoxide | 0.232 mole, 26.2 g | CC(C)([O-])C.[K+]
reactant | potassium phthalimide | 0.278 mole, 51.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 2-[[2-Methyl-1-[4-chloro-2-(2-fluorobenzyl)phenyl]-1H-imidazol-5-yl]methyl]-1H-isoindole-1,3(2H)dione | CC=1N(C(=CN1)CN1C(C2=CC=CC=C2C1=O)=O)C1=C(C=C(C=C1)Cl)CC1=C(C=CC=C1)F | C26H19ClFN3O2
